US06159990
a. 1-Phenyl-4-piperazin-1-yl-cyclohexanecarbonitrile
A mixture of 4-cyano-4-phenyl-cyclohexanone (0.23 g, 1.2 mmol) and piperazine (0.30 g, 3.5 mmol) in 20 ml of toluene was stirred at reflux for 2 h in presence of catalytic amount of p-toluenesulfonic acid. The reaction mixture was concentrated in vacuo to provide a white solid, which was redissolved in 20 ml of EtOH and stirred with NaBH4 (0.30 g, 80 mmol) for 12 h at 25° C. Reaction mixture was diluted with 100 ml of EtOAc and washed with brine several times. Organic layer was dried over MgSO4 and concentrated in vacuo, to provide oily residue, which was subjected to column chromatography (10% MeOH/EtOAc) to yield 0.13 g (40%) of the desired product as an oil.

reactant | 4-cyano-4-phenyl-cyclohexanone | 1.2 mmol, 0.23 g | C(#N)C1(CCC(CC1)=O)C1=CC=CC=C1 | C13H13NO
reactant | piperazine | 3.5 mmol, 0.30 g | N1CCNCC1 | C4H10N2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH4 | 80 mmol, 0.30 g | [BH4-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 1-Phenyl-4-piperazin-1-yl-cyclohexanecarbonitrile | 0.13 g, 40% | C1(=CC=CC=C1)C1(CCC(CC1)N1CCNCC1)C#N | C17H23N3
